US08133911B2
A solution of methyl (4R)-3-oxo-4-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)pentanoate (372 mg, 1 mmol) in AcOH (10 ml) and 37% HCl (1.5 ml) was refluxed for 12 h. After cooling at room temperature and solvents evaporation, the crude product was diluted with CH2Cl2 (10 ml), washed with water (3×5 ml) and brine (3×5 ml) and dried over anhydrous Na2SO4. After solvent evaporation the resulting pale yellow oil was pulped overnight in n-hexane. Pure (4R)-3-oxo-4-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)pentanoic acid (283 mg, 0.79 mmol) was isolated as a white solid by filtration (79%).

reactant | methyl (4R)-3-oxo-4-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)pentanoate | 1 mmol, 372 mg | O=C(CC(=O)OC)[C@H](C)C1=CC=C(C=C1)NC=1SC=C(N1)C(F)(F)F | C16H15F3N2O3S
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
solvent | HCl | 1.5 ml | Cl | ClH
product | (4R)-3-oxo-4-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)pentanoic acid | 0.79 mmol, 283 mg | O=C(CC(=O)O)[C@H](C)C1=CC=C(C=C1)NC=1SC=C(N1)C(F)(F)F | C15H13F3N2O3S
